US04492692
An aqueous solution of NH4Cl and NaCN was added to a solution of 2-fluoro-4-formyl-1-triphenylmethylimidazole in THF and EtOH. After stirring 2 hours at 20° and 5 minutes at 60°, the solution was evaporated and triturated with ether, to give 4-(1-aminocyanomethyl)-2-fluoro-1-triphenylmethylimidazole having the following n.m.r. in CDCl3 : 5.37 (s, 1H); 6.73 (s, 1H); 7.04-7.45 (m, 15H).

reactant | NH4Cl | [NH4+].[Cl-]
reactant | NaCN | [C-]#N.[Na+]
reactant | 2-fluoro-4-formyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17FN2O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
product | 4-(1-aminocyanomethyl)-2-fluoro-1-triphenylmethylimidazole | NC(C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F)C#N | C24H19FN4
